US04882351
4,10-Dihydro-10-oxothieno[3,2-c][1] benzoxepin-8-acetic acid, 25.5 g, synthesized according to the method of D. E. Aultz, et al. [J. Med. Chem., 20, 456 (1977)] and 0.9 g of p-toluenesulfonic acid monohydrate were heated under reflux for 3 hours in 600 ml of methanol. The solvent was distilled off under reduced pressure and the resulting residue was extracted with 500 ml of ethyl acetate. After washing in sequence with saturated sodium bicarbonate aqueous solution and then with saturated sodium chloride aqueous solution, the extract was dried over anhydrous magnesium sulfate. The solvent was then distilled off under reduced pressure. The resulting residue was subjected to silica gel column chromatography (eluting solvent; hexane:ethyl acetate=3:1) to give 24.9 g of methyl 4,10-dihydro-10-oxothieno[3,2-c] [1] benzoxepin-8-acetate as light yellow solids.

reactant | 4,10-Dihydro-10-oxothieno[3,2-c][1] benzoxepin-8-acetic acid | O=C1C2=C(COC3=C1C=C(C=C3)CC(=O)O)C=CS2 | C14H10O4S
reactant | p-toluenesulfonic acid monohydrate | 0.9 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | methanol | 600 ml | CO | CH4O
product | methyl 4,10-dihydro-10-oxothieno[3,2-c] [1] benzoxepin-8-acetate | 24.9 g | O=C1C2=C(COC3=C1C=C(C=C3)CC(=O)OC)C=CS2 | C15H12O4S
